US06472562B1
b) 4-Bromo-3-[2-(2,4-dichlorophenyl)ethoxy]-5-hydroxybenzoic acid
A solution of 25.6 g (59 mmol) of 4-bromo-3-[2-(2,4-dichlorophenyl)ethoxy]-5-hydroxybenzoic acid ethyl ester in 300 ml of ethanol and 2.36 g (65 mmol) of sodium hydroxide in 15 ml of water was stirred at room temperature for 12 h. The solvent was removed and the residue was distributed between water and ethyl acetate. The aqueous solution was acidified with 1 N HCl and the precipitate was filtered to give 4.35 g (31%) of the title compound.

reactant | 4-bromo-3-[2-(2,4-dichlorophenyl)ethoxy]-5-hydroxybenzoic acid ethyl ester | 59 mmol, 25.6 g | C(C)OC(C1=CC(=C(C(=C1)O)Br)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C17H15BrCl2O4
reactant | sodium hydroxide | 65 mmol, 2.36 g | [OH-].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 4-Bromo-3-[2-(2,4-dichlorophenyl)ethoxy]-5-hydroxybenzoic acid | 4.35 g, 31% | BrC1=C(C=C(C(=O)O)C=C1O)OCCC1=C(C=C(C=C1)Cl)Cl | C15H11BrCl2O4
